US09301951B2
N1-(2-(6-(3-(trifluoromethyl)benzylamino)pyrimidin-4-yl)-4-chlorophenyl)-N3-(2-(2-hydroxyethoxy)ethyl)isophthalamide
Into a 50-mL round bottom flask, was placed a solution of N-(3-(trifluoromethyl)benzyl)-6-(2-amino-5-chlorophenyl)pyrimidin-4-amine (200 mg, 0.53 mmol, 1.00 equiv) in N,N-dimethylformamide (20 mL), HATU (290 mg, 0.76 mmol, 2.00 equiv), N,N-diisopropylethylamine (200 mg, 1.55 mmol, 4.00 equiv), and N1-(2-(6-(3-(trifluoromethyl)benzylamino)pyrimidin-4-yl)-4-chlorophenyl)-N3 hydroxyethoxy)ethyl)isophthalamide (60 mg, 0.10 mmol, 1.50 equiv). The resulting solution was stirred overnight at 30° C. in an oil bath. The reaction progress was monitored by LCMS. The resulting mixture was concentrated under vacuum. The crude product was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 105.9 mg (33%) of a yellow solid. 1H-NMR (300 MHz, DMSO-d6, ppm): δ 8.87 (s, 1H), 8.71 (t, J=4.8 Hz, 9.9 Hz, 1H), 8.49 (s, 1H), 8.07 (t, J=7.5 Hz, 15.3 Hz, 2H), 7.83 (s, 1H), 7.58 (m, 6H), 7.07 (s, 1H), 4.75 (s, 2H), 3.57 (m, 2H), 3.49 (m, 6H). MS (ES, m/z): 614 [M+H]+.

reactant | N-(3-(trifluoromethyl)benzyl)-6-(2-amino-5-chlorophenyl)pyrimidin-4-amine | 0.53 mmol, 200 mg, 1.00 equiv | FC(C=1C=C(CNC2=NC=NC(=C2)C2=C(C=CC(=C2)Cl)N)C=CC1)(F)F | C18H14ClF3N4
reactant | HATU | 0.76 mmol, 290 mg, 2.00 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 1.55 mmol, 200 mg, 4.00 equiv | C(C)(C)N(C(C)C)CC | C8H19N
reactant | isophthalamide | 0.10 mmol, 60 mg, 1.50 equiv | C(C1=CC(C(=O)N)=CC=C1)(=O)N | C8H8N2O2
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | N1-(2-(6-(3-(trifluoromethyl)benzylamino)pyrimidin-4-yl)-4-chlorophenyl)-N3-(2-(2-hydroxyethoxy)ethyl)isophthalamide | 105.9 mg, 33% | FC(C=1C=C(CNC2=CC(=NC=N2)C2=C(C=CC(=C2)Cl)NC(C2=CC(C(=O)NCCOCCO)=CC=C2)=O)C=CC1)(F)F | C30H27ClF3N5O4
